US04429130
A mixture of 100 parts by volume of phosphorus trichloride and 40 parts of 2,8-bis-(trifluoromethyl)-4-hydroxyquinoline is refluxed for 8 hours. Most of the excess phosphorus trichloride is then distilled off, the residue is poured onto 200 parts of ice-water and the pH is brought to 12-13 with 12 N sodium hydroxide solution. The mixture is then extracted with methylene chloride, the extract is dried over sodium sulfate and the solvent is stripped off under reduced pressure. 40.2 parts=94% of theory of 2,8-bis-(trifluoromethyl)-4-chloroquinoline of melting point 40°-42° C. are obtained.

reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | 2,8-bis-(trifluoromethyl)-4-hydroxyquinoline | FC(C1=NC2=C(C=CC=C2C(=C1)O)C(F)(F)F)(F)F | C11H5F6NO
product | 2,8-bis-(trifluoromethyl)-4-chloroquinoline | FC(C1=NC2=C(C=CC=C2C(=C1)Cl)C(F)(F)F)(F)F | C11H4ClF6N
